US05346917
A solution of 2.5 g of 4-(aminomethyl)-1-[[2-(diethylamino)ethyl]amino]-thioxanthen-9-one (prepared by the method described in Example 4) in 30 mL of pyridine was cooled in an ice bath for 15 min and 0.95 g of ethanesulfonyl chloride in 5 mL of pyridine was added rapidly dropwise and the reaction mixture was stirred at room temperature for 1 h. The mixture was poured into 75 mL of water containing 0.75 g of NaOH, extracted into chloroform, the organic layer was washed with water (2x) and brine, and dried over sodium sulfate. The mixture was concentrated in vacuo and the residue was stirred in ether and dried (40° C./0.1 mm) to afford 1.7 g of N-[[1-[[2-(diethylamino)ethyl]amino]-9-oxothioxanthen-4-yl]methyl]ethanesulfonamide, amide, m.p. 105° C. (dec.). The sulfonamide was dissolved in methanol and treated with methanesulfonic acid in methanol to afford 1.61 g (42%) of the methanesulfonate salt, m.p. 135° C. (dec.).

reactant | 4-(aminomethyl)-1-[[2-(diethylamino)ethyl]amino]-thioxanthen-9-one | 2.5 g | NCC1=CC=C(C=2C(C3=CC=CC=C3SC12)=O)NCCN(CC)CC | C20H25N3OS
reactant | ethanesulfonyl chloride | 0.95 g | C(C)S(=O)(=O)Cl | C2H5ClO2S
reactant | water | 75 mL, 0.75 g | O | H2O
reactant | NaOH | [OH-].[Na+]
solvent | pyridine | 30 mL | N1=CC=CC=C1 | C5H5N
solvent | pyridine | 5 mL | N1=CC=CC=C1 | C5H5N
product | N-[[1-[[2-(diethylamino)ethyl]amino]-9-oxothioxanthen-4-yl]methyl]ethanesulfonamide | 1.7 g | C(C)N(CCNC1=CC=C(C=2SC3=CC=CC=C3C(C12)=O)CNS(=O)(=O)CC)CC | C22H29N3O3S2
